US06921821B2
4-Chloroaniline (2.55 g, 20 mmol) and triethylamine (3.5 mL, 25 mmol) were dissolved in THF (100 mL ) and cooled in an ice bath under argon with stirring prior to slow addition of a solution of trifluoroacetic anhydride (3.0 mL, 21.2 mmol) in THF (20 mL). The reaction was found to be complete by TLC in 30 minutes. The reaction mixture was quenched with 1 N HCl (50 mL) and diluted with ethyl acetate. The organic layer was washed with additional 1 N HCl and dried with magnesium sulfate prior to evaporation under reduced pressure to give N-(4-chlorophenyl)-trifluoroacetamide (4.05 g). 1H NMR (300 MHz, CDCl3) δ ppm 7.36 (2H, m), 7.51 (2H, m), 8.11 (1H, br s).

reactant | 4-Chloroaniline | 20 mmol, 2.55 g | ClC1=CC=C(N)C=C1 | C6H6ClN
reactant | triethylamine | 25 mmol, 3.5 mL | C(C)N(CC)CC | C6H15N
reactant | trifluoroacetic anhydride | 21.2 mmol, 3.0 mL | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | N-(4-chlorophenyl)-trifluoroacetamide | 4.05 g | ClC1=CC=C(C=C1)NC(C(F)(F)F)=O | C8H5ClF3NO
